US07226923B2
7-Methoxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one
To a stirred solution of 7-Hydroxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one (0.4 g, 1.4 mmol) in tetrahydrofuran (THF) (5 ml) were added successively, K2CO3 (0.59 g, 4.3 mmol) and methyl iodide (0.22 g, 1.55 mmol) and the mixture was heated to reflux for 24 hours. After this time, LC-MS indicated complete consumption of starting material, and the reaction mixture was concentrated under vacuum. The residue was re-dissolved in ethyl acetate (50 ml) and washed with water (2×30 ml), the organic layer was dried (MgSO4), filtered and concentrated under vacuum to give the title compound (0.32 g, 76% yield) as an orange powder.

reactant | 7-Hydroxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 1.4 mmol, 0.4 g | OC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H11BrN2O2
reactant | K2CO3 | 4.3 mmol, 0.59 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 1.55 mmol, 0.22 g | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 0.32 g, 76% yield | COC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C12H13BrN2O2
